US04724233
dUrd-2'-deoxyuridine;
Urd-uridine; Leu-L-leucine.

reactant | uridine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O6
reactant | Leu L-leucine | N[C@@H](CC(C)C)C(=O)O.N[C@@H](CC(C)C)C(=O)O | 2C6H13NO2
product | dUrd 2'-deoxyuridine | C1[C@@H]([C@H](O[C@H]1N2C=CC(=O)NC2=O)CO)O.[C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | 2C9H12N2O5
